US06583135B2
Preparation of tert-Butyl 9,10-Dichloro-6-[2-(2,3-dimethylanilino)-2-oxoethyl]-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate
DMAP (89 mg, 0.73 mmol), 2,3-dimethylaniline (98 mg, 0.81 mmol) and DIC (0.13 mL, 0.81 mmol) were added to the solution of crude [3-(tert-butoxycarbonyl)-9,10-dichloro-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl]acetic acid (0.30 g, 0.73 mmol) in dry THF (3.5 mL). After 4 h, additional 2,3-dimethylaniline (0.049 mL, 0.40 mmol) and THF (2 mL) was added. The reaction was diluted with EtOAc after 25 h followed by washing with 10% aqueous citric acid (75 mL), saturated aqueous NaHCO3 (40 mL), and brine (40 mL). A precipitate in the combined organic layers was filtered to yield 0.22 g (58%) white solid: mp 232.5-233.0° C.; 1H NMR (DMSO, 400 MHz) δ 9.77 (s, 1H), 7.49 (d, J=8.8 Hz, 1H), 7.28 (d, J=8.7 Hz, 1H), 7.13 (d, J=6.8 Hz, 1H), 7.03 (m, 2H), 5.11 (s, 2H), 3.64 (m, 4H), 3.39 (m, 2H), 3.03 (m, 2H), 2.24 (s, 3H), 2.09 (s, 3H), 1.41 (s, 9H); IR (diffuse reflectance) 2977, 1692, 1659, 1541, 1474, 1451, 1412, 1366, 1303, 1269, 1201, 1174, 1112, 791, 773 cm−1; MS (EI) m/z 515 (M+), 376, 226, 224, 212, 189, 149, 133, 119, 55, 52; HRMS (EI) calcd for C27H31Cl2N3O3 515.1743, found 515.1747.

reactant | 2,3-dimethylaniline | 0.81 mmol, 98 mg | CC1=C(N)C=CC=C1C | C8H11N
reactant | DIC | 0.81 mmol, 0.13 mL | CC(N=C=NC(C)C)C | C7H14N2
reactant | [3-(tert-butoxycarbonyl)-9,10-dichloro-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl]acetic acid | 0.73 mmol, 0.30 g | C(C)(C)(C)OC(=O)N1CCC=2N(C=3C=CC(=C(C3C2CC1)Cl)Cl)CC(=O)O | C19H22Cl2N2O4
reactant | 2,3-dimethylaniline | 0.40 mmol, 0.049 mL | CC1=C(N)C=CC=C1C | C8H11N
catalyst | DMAP | 0.73 mmol, 89 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | tert-Butyl 9,10-Dichloro-6-[2-(2,3-dimethylanilino)-2-oxoethyl]-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.22 g, 58% | ClC1=C(C=2C3=C(N(C2C=C1)CC(=O)NC1=C(C(=CC=C1)C)C)CCN(CC3)C(=O)OC(C)(C)C)Cl | C27H31Cl2N3O3
